US07777047B2
4-amino-3-(benzylthio)-3-methylbutan-1-ol
To a mixture of lithium aluminum hydride (1.67 g) and tetrahydrofuran (30 ml) was added a solution of 3-(benzylthio)-3-methyl-4-nitrobutan-1-ol (3.00 g) in tetrahydrofuran (10 ml) over 1 hr at room temperature. The reaction mixture was stirred at room temperature for 1 hr, ethanol (10 ml) and water (6.4 ml) were added in this order, and the resulting inorganic salt was removed by filtration. The filtrate was concentrated, and the residue was dissolved in ethyl acetate, dried (MgSO4), and concentrated to give the title compound (2.62 g, yield 99%) as a yellow oil.

reactant | lithium aluminum hydride | 1.67 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(benzylthio)-3-methyl-4-nitrobutan-1-ol | 3.00 g | C(C1=CC=CC=C1)SC(CCO)(C[N+](=O)[O-])C | C12H17NO3S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | water | 6.4 ml | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-amino-3-(benzylthio)-3-methylbutan-1-ol | 2.62 g, yield 99% | NCC(CCO)(C)SCC1=CC=CC=C1 | C12H19NOS
